USRE029835
A mixture of 3-cyano-1-(2,3,5 -tri-O-acetyl-β-D-ribofuranosyl)-1,2,4-triazole (705 mg., 2.0 mmole), 28% aqueous ammonia (20 ml.) and 30% hydrogen peroxide (3.0 ml.) was stirred at 25° for 6 hrs. An additional 3.0 ml. portion of 30% hydrogen peroxide was then added and stirring at 25° was continued for 12 hrs. The excess hydrogen peroxide was destroyed by addition of platinum black, the solution was filtered, the filtrate was evaporated to dryness. The residue was dissolved in methanol and silic gel (5.0 g.) was added to the solution. The solvent was removed and the silica gel mixture was applied to a silica gel column. Elution with ethyl acetate-methanol (1:1) provided 1-(β -D-ribofuranosyl)-1,2,4-triazole-3-carboxamide (250 mg., 51.2%).

reactant | 3-cyano-1-(2,3,5 -tri-O-acetyl-β-D-ribofuranosyl)-1,2,4-triazole | 2.0 mmole, 705 mg | C(#N)C1=NN(C=N1)[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C14H16N4O7
reactant | hydrogen peroxide | 3.0 ml | OO | H2O2
solvent | ammonia | 20 ml | N | H3N
product | 1-(β -D-ribofuranosyl)-1,2,4-triazole-3-carboxamide | 250 mg, 51.2% | [C@@H]1([C@H](O)[C@H](O)[C@H](O1)CO)N1N=C(N=C1)C(=O)N | C8H12N4O5
